US06355642B1
1-Benzyl-4-methyl-4-phenyl-piperidine hydrochloride
1-Benzyl-4-phenyl-1,2,3,6-tetrahydropyridine (160 mg, 0.64 mmol) was dissolved in anhydrous tetrahydrofuran (2 ml) to which was subsequently added dropwise n-butyl lithium hexane solution (0.64 mmol) at −10 to −20° C. in an atmosphere of argon, followed by 15 minutes of stirring. After cooling the reaction solution to −50 to −60° C., iodomethane (0.13 ml, 2.1 mmol) was added dropwise thereto and then the solution was stirred for 2 hours while gradually increasing the temperature to −20° C. After adding saturated brine to the reaction solution, the reaction product was extracted with ethyl acetate, and the resulting extract was washed with water and saturated brine and dried with anhydrous sodium sulfate. Then the solvent was evaporated under a reduced pressure. The thus obtained residue was dissolved in methanol (2 ml), and the solution was mixed with palladium-carbon (40 mg) and stirred at room temperature for 38 hours in an atmosphere of hydrogen. The reaction solution was filtered, the resulting mother liquor was mixed with hydrochloric acid-saturated methanol and then the solvent was evaporated under a reduced pressure to obtain crystals which were then washed with a small amount of ethyl acetate to obtain 83 mg of the title compound (0.28 mmol, 43% in yield).

reactant | 1-Benzyl-4-phenyl-1,2,3,6-tetrahydropyridine | 0.64 mmol, 160 mg | C(C1=CC=CC=C1)N1CCC(=CC1)C1=CC=CC=C1 | C18H19N
reactant | n-butyl lithium hexane | 0.64 mmol | CCCCCC.C(CCC)[Li]
reactant | iodomethane | 2.1 mmol, 0.13 ml | IC | CH3I
reactant | brine | [Cl-].[Na+].O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 1-Benzyl-4-methyl-4-phenyl-piperidine hydrochloride | 0.28 mmol, 83 mg, 43% | Cl.C(C1=CC=CC=C1)N1CCC(CC1)(C1=CC=CC=C1)C | InChI=1S/C19H23N.ClH/c1-19(18-10-6-3-7-11-18)12-14-20(15-13-19)16-17-8-4-2-5-9-17;/h2-11H,12-16H2,1H3;1H
